US07459562B2
B) tert-Butyl(1-(3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)prop-2-ynyl)azetidin-3-yl)methylcarbamate
A solution of 3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)prop-2-yn-1-ol (43 mg, 0.15 mmol) and DIPEA (45 μL, 0.26 mmol) in anhydrous THF (1.5 mL) was cooled to 0° C. and treated with methanesulfonyl chloride (15 mg, 0.11 mmol) in portions. After stirring at 0° C. for 1 h, the mixture was concentrated under reduced pressure. The residue was treated with DMF (1.0 mL), DIPEA (45 μL, 0.26 mmol) and azetidin-3-ylmethyl-carbamic acid tert-butyl ester (Beta Pharma Inc., 145 mg, 0.78 mmol) and stirred at rt for 2 h. The reaction mixture was partitioned between EtOAc and saturated aq. NaHCO3 solution and the EtOAc phase separated, washed with brine dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography on SiO2 eluting with 1-5% MeOH/CH2Cl2 to afford the title compound (33 mg, 48%) as a colorless oil. 1H NMR (DMSO-d6) δ 8.74 (s, 1H), 8.51 (d, 1H, J=5.6 Hz), 8.41 (dd, 1H, J=10.7, 2.5 Hz), 8.15 (d, 1H, J=9.2 Hz), 7.53 (t, 1H, J=8.6 Hz), 7.09 (d, 1H, J=6.1 Hz), 6.86 (t, 1H, J=5.6 Hz), 3.39 (s, 2H), 3.24-3.14 (m, 2H), 3.07-2.98 (m, 2H), 2.94-2.87 (m, 2H), 2.37-2.26 (m, 1H), 1.33 (s, 9H); MS(ESI+): m/z 401.20 (100), [(M-C4H9)]+; m/z 457.20 (25), (M+H)+.

reactant | 3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)prop-2-yn-1-ol | 0.15 mmol, 43 mg | FC1=C(OC2=C(C=NC=C2)C#CCO)C=CC(=C1)[N+](=O)[O-] | C14H9FN2O4
reactant | DIPEA | 0.26 mmol, 45 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.11 mmol, 15 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIPEA | 0.26 mmol, 45 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | azetidin-3-ylmethyl-carbamic acid tert-butyl ester | 0.78 mmol, 145 mg | C(C)(C)(C)OC(NCC1CNC1)=O | C9H18N2O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | tert-Butyl(1-(3-(4-(2-fluoro-4-nitrophenoxy)pyridin-3-yl)prop-2-ynyl)azetidin-3-yl)methylcarbamate | 33 mg, 48% | C(C)(C)(C)OC(NCC1CN(C1)CC#CC=1C=NC=CC1OC1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C23H25FN4O5
